US08071609B2
A) 6-chloro-2-iodo-9-vinyl-9H-purine
In a 250 mL pressure tube, Hg(OAc)2 (2.52 g, 7.88 mmol) was suspended in vinyl acetate (73 mL, 788 mmol). To this suspension was added H2SO4/EtOAc (1.5 mL/15 mL). A clear solution was formed. The 2-iodo-6-chloro-9H-purine (22.1 g, 78.8 mmol) was added. A suspension formed again. It was degassed and stirred at 45-50° C. overnight. A dark solution was formed. The mixture was passed through celite, washed with EtOAc. Organic layer was washed with Sat. NaHCO3> dried Na2SO4. The product was purified on silica gel chromatography column (1-5% MeOH/DCM).

reactant | vinyl acetate | 788 mmol, 73 mL | C(C)(=O)OC=C | C4H6O2
reactant | H2SO4 EtOAc | 1.5 mL | OS(=O)(=O)O.CCOC(=O)C
reactant | 2-iodo-6-chloro-9H-purine | 78.8 mmol, 22.1 g | IC1=NC(=C2N=CNC2=N1)Cl | C5H2ClIN4
catalyst | Hg(OAc)2 | 7.88 mmol, 2.52 g | [Hg](OC(=O)C)OC(=O)C
product | 6-chloro-2-iodo-9-vinyl-9H-purine | ClC1=C2N=CN(C2=NC(=N1)I)C=C | C7H4ClIN4
